US07435823B2
Step (b) Preparation of N-methyl-4-((5-(((3-chlorophenyl)carbonyl)amino)-2-naphthalenyl)oxy)-2-pyridinecarboxamide
To a suspension of 4-(5-aminonaphthalen-2-yloxy)-N-methylpicolinamide (40 mg, 0.14 mmol) and NaHCO3 (33 mg, 0.44 mmol)in CH2Cl2, 3-chlorobenzoyl chloride (17 □L, 0.14 mmol) was added. The reaction was stirred at RT for 12 h then taken up into CHCl3 and washed with water and brine, dried over Na2SO4, and filtered. The title compound was isolated after purification by column chromatography. MS (ESI pos. ion) m/z: 432.4 (M+H). Calc'd for C24H18ClN3O3-431.87.

reactant | 4-(5-aminonaphthalen-2-yloxy)-N-methylpicolinamide | 0.14 mmol, 40 mg | NC1=C2C=CC(=CC2=CC=C1)OC1=CC(=NC=C1)C(=O)NC | C17H15N3O2
reactant | NaHCO3 | 0.44 mmol, 33 mg | C(=O)(O)[O-].[Na+]
reactant | 3-chlorobenzoyl chloride | 0.14 mmol | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-methyl-4-((5-(((3-chlorophenyl)carbonyl)amino)-2-naphthalenyl)oxy)-2-pyridinecarboxamide | CNC(=O)C1=NC=CC(=C1)OC1=CC2=CC=CC(=C2C=C1)NC(=O)C1=CC(=CC=C1)Cl | C24H18ClN3O3
